US07691879B2
Step C 3-cyano-6-methoxy-4-pyridin-2-ylisoquinoline-1-carboxylic acid.
To a suspension of methyl 3-cyano-6-methoxy-4-pyridin-2-ylisoquinoline-1-carboxylate (0.04 g, 0.125 mmol) in 3 mL EtOH, was added 0.251 mL 1(N) aqueous NaOH and 1.16 mL water. The reaction was stirred at 0° C. for 4 h and then 1(N) aqueous HCl (0.251 mL) was added. The reaction was warmed up to rt and concentrated to a tan solid (used without further purification).

reactant | methyl 3-cyano-6-methoxy-4-pyridin-2-ylisoquinoline-1-carboxylate | 0.125 mmol, 0.04 g | C(#N)C=1N=C(C2=CC=C(C=C2C1C1=NC=CC=C1)OC)C(=O)OC | C18H13N3O3
reactant | NaOH | [OH-].[Na+]
reactant | water | 1.16 mL | O | H2O
reactant | HCl | 0.251 mL | Cl | ClH
solvent | EtOH | 3 mL | CCO | C2H6O
product | 3-cyano-6-methoxy-4-pyridin-2-ylisoquinoline-1-carboxylic acid | C(#N)C=1N=C(C2=CC=C(C=C2C1C1=NC=CC=C1)OC)C(=O)O | C17H11N3O3
